US09212190B2
A solution of 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide (90 mg, 0.25 mmol, 1.00 equiv) in 8 mL of DMF was added 2-chloro-1-(pyrrolidin-1-yl)ethan-1-one (55 mg, 0.37 mmol, 1.50 equiv) and potassium carbonate (69 mg, 0.50 mmol, 2.00 equiv) and the resulting solution was stirred overnight at room temperature. The reaction was quenched with water and extracted with DCM. The organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (80 mg) was purified by preparative HPLC under the following conditions (SHIMADZU): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 0.05% NH4HCO3 and CH3CN (6.0% CH3CN up to 50.0% in 16 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired 2-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide (50 mg) as a white solid. LCMS (ES): m/z 472 [M+H]+. 1H NMR (300 MHz, CD3OD): δ 8.43 (1H, s), 5.25-5.20 (1H, m), 3.85-3.69 (1H, m), 3.52 (2H, t), 3.42 (2H, t), 3.37 (2H, s), 3.15-2.85 (2H, m), 2.73-2.58 (2H, m), 2.29-2.18 (7H, m), 1.96-1.79 (6H, m), 1.67-1.47 (4H, m).

reactant | 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide | 0.25 mmol, 90 mg, 1.00 equiv | CNC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)N | C18H24N4O2S
reactant | 2-chloro-1-(pyrrolidin-1-yl)ethan-1-one | 0.37 mmol, 55 mg, 1.50 equiv | ClCC(=O)N1CCCC1 | C6H10ClNO
reactant | potassium carbonate | 0.50 mmol, 69 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide | 50 mg | CN(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)N)CC(N1CCCC1)=O | C24H33N5O3S
